US05571828
A mixture of 6-.hydroxy-7-methoxy-1-tetralone (J. Org. Chem., 1985, 50, 4937) (1.5 g, 7.8 mmol), K2CO3 (1.7 g, 12.3 mmol), and acetone (30 ml) was stirred at reflux under nitrogen for 45 minutes. The reaction was cooled to ambient temperature and a solution of 1-bromo-3-chloropropane (1.9 g, 12.1 mmol) dissolved in 8 ml acetone was dripped into the mixture. After total addition, the reaction was heated to reflux and stirred under nitrogen for 21 hours. The reaction was cooled to ambient temperature and filtered. The filter cake was washed well with acetone and the filtrate was concentrated to yield 2.0 g 6-(3-chloropropoxy)-7-methoxy-1-tetralone as an amber oil.

reactant | hydroxy-7-methoxy-1-tetralone | 7.8 mmol, 1.5 g | OC1C(C2=CC(=CC=C2CC1)OC)=O | C11H12O3
reactant | K2CO3 | 12.3 mmol, 1.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-3-chloropropane | 12.1 mmol, 1.9 g | BrCCCCl | C3H6BrCl
solvent | acetone | 8 ml | CC(=O)C | C3H6O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 6-(3-chloropropoxy)-7-methoxy-1-tetralone | 2.0 g | ClCCCOC=1C=C2CCCC(C2=CC1OC)=O | C14H17ClO3
